US05840732
i) Synthesis of 3-[4-(3-trifluoroacetylimidazo[1,2-a]-pyridin-8-yloxy)butyl]thiazolidine-2,4-dione
To a solution of 1.53 g (5.0 mmol) of 3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione in 50 ml of dichloromethane, 7.06 ml (50 mmol) of trifluoroacetic anhydride was added under ice cooling conditions, followed by addition of 8.36 ml (60 mmol) of triethylamine and stirring for 1 hour. After the reaction was stopped by adding2N aqueous sodium hydroxide, the reaction mixture was extracted with dichloromethane and dried. The residue obtained by distilling off the solvent was purified by column chromatography (eluent, n-hexane/ethyl acetate=5/1→2/1→1/1) to yield 415 mg (20.7%, white powder) of the desired product.

reactant | 3-[4-(imidazo[1,2-a]pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | 5.0 mmol, 1.53 g | N=1C=CN2C1C(=CC=C2)OCCCCN2C(SCC2=O)=O | C14H15N3O3S
reactant | trifluoroacetic anhydride | 50 mmol, 7.06 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 60 mmol, 8.36 ml | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 3-[4-(3-trifluoroacetylimidazo[1,2-a]-pyridin-8-yloxy)butyl]thiazolidine-2,4-dione | FC(C(=O)C1=CN=C2N1C=CC=C2OCCCCN2C(SCC2=O)=O)(F)F | C16H14F3N3O4S
